US09034866B2
Synthesis of (±)-9-fluoro-10-(3-(5-formylisoxazol-3-yl)-3-hydroxybut-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Similar to as described in General Procedure G, 10-bromo-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with 3-(2-hydroxybut-3-yn-2-yl)-1,2-oxazole-5-carbaldehyde to give the titled compound as a light yellow solid (14 mg, 10%).

reactant | 10-bromo-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1)F | C12H9BrFN3O2
reactant | 3-(2-hydroxybut-3-yn-2-yl)-1,2-oxazole-5-carbaldehyde | OC(C)(C#C)C1=NOC(=C1)C=O | C8H7NO3
product | (±)-9-fluoro-10-(3-(5-formylisoxazol-3-yl)-3-hydroxybut-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 14 mg, 10% | FC1=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C=C1C#CC(C)(O)C1=NOC(=C1)C=O | C20H15FN4O5
